US08124629B2
A degassed mixture of 1-ethynyl-4-methanesulfonyl-benzene (2.5 g, 13.87 mmol), bis(triphenylphosphine)palladium(II) chloride (0.49 g, 0.69 mmol), copper(I) iodide (0.13 g, 0.69 mmol), triethylamine (28 mL), and 2-bromo-4-fluorobenzaldehyde (3.38 g, 16 mmol) in dichloromethane (10 mL) was stirred at 80° C. for 3.5 hours, then at room temperature overnight. The reaction mixture was partitioned between dichloromethane and water. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (RediSep® Flash column, 230-400 mesh, 15-35% ethyl acetate in hexane) gave 4-fluoro-2-(4-methanesulfonyl-phenylethynyl)-benzaldehyde (3.32 g, 79%). MS (ESI+) cald. for C16H11FO3S [(M+H)+] 302, obsd. 302.

reactant | 1-ethynyl-4-methanesulfonyl-benzene | 13.87 mmol, 2.5 g | C(#C)C1=CC=C(C=C1)S(=O)(=O)C | C9H8O2S
reactant | triethylamine | 28 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-4-fluorobenzaldehyde | 16 mmol, 3.38 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.69 mmol, 0.49 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.69 mmol, 0.13 g | [Cu]I
product | 4-fluoro-2-(4-methanesulfonyl-phenylethynyl)-benzaldehyde | 3.32 g, 79% | FC1=CC(=C(C=O)C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)C | C16H11FO3S
